US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(1,1-dimethylethyl)-benzoyl]amino]benzamide
The titled compound was prepared substantially in accordance with the method detailed in Example 6B using 1.50 g (0.00651 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide, prepared as in Example 6A, and 2.61 g (0.01302 mol) of p-tert-butylbenzoyl chloride, with the exception that after reducing the initial reaction mixture to dryness, the resultant residue was dissolved in methanol and heated at reflux for 30 minutes. The methanol solution was then reduced to dryness under reduced pressure and the resultant residue was dissolved in an ethyl acetate/aqueous sodium bicarbonate mixture. The resulting layers were separated and the organic layer was washed with a saturated sodium chloride solution, dried with anhydrous sodium sulfate and reduced to dryness under reduced pressure to provide a yellow oil. This oil was purified by twice crystallizing the material from diethyl ether containing a small amount of ethyl acetate to provide 1.64 g of the desired titled compound (m.p. 127°-132° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide | 0.00651 mol, 1.50 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | p-tert-butylbenzoyl chloride | 0.01302 mol, 2.61 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(1,1-dimethylethyl)-benzoyl]amino]benzamide | 1.64 g | N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C23H26N4O2
